US03935267
c. 5,6,7,8-Tetrahydro-1,6-naphthalenediol
A 3.7 g. (0.0235 mole) sample of 5-hydroxy-3,4-dihydro-2(1H)-naphthalenone in 125 ml. of methanol is added to a cooled solution of 1.0 g. (0.025 mole) of sodium borohydride in 25 ml. of methanol. After 150 minutes at 0°, 7.2 g. of acetic acid is added and the solvent removed in vacuo. Partitioning between water and methylene chloride gives 3.54 g. of crude product after further extraction, drying and solvent removal. Recrystallization from hexane-ethyl acetate gives 2.92 g., m.p. 126°-128.5°. (lit. m.p. 127°-128°) JACS, 80, 2887 (1958).

reactant | 5-hydroxy-3,4-dihydro-2(1H)-naphthalenone | OC1=C2CCC(CC2=CC=C1)=O | C10H10O2
reactant | methanol | CO | CH4O
reactant | sodium borohydride | 0.025 mole | [BH4-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5,6,7,8-Tetrahydro-1,6-naphthalenediol | C1(=CC=CC=2CC(CCC12)O)O | C10H12O2
